US08252931B2
To a 500 mL round bottom flask containing 250 mL of 9:1 THF/DMPU at −78° C. is added 17 mL DIEA followed by rapid addition of 49 mL of 2.5 M n-BuLi/hexanes. After 10 min at −78° C., a solution of ethyl phenylacetate (17.0 g, 113 mmol) in 50 mL of 9:1 THF/DMPU is added dropwise over 15-20 min. A yellow solution results, and the reaction mixture is stirred at −78° C. for 30-45 min. A solution of 26.7 g (115 mmol) of freshly prepared cyclopentyl triflate (title B compound in Example 1) in 25 mL 9:1 THF/DMPU is added dropwise over 10-15 min. The mixture is then stirred over 2-3 h to ambient temperature. The reaction is quenched into 300 mL of 1 N HCl and extracted 3 times with methyl-t-butylether (MTBE). The combined extracts are washed with saturated NaCl and dried over anhydrous magnesium sulfate. Filtration and evaporation afford crude product as a yellow oil. Flash chromatography over silica gel eluting with 4:1 hexane/MTBE affords 3-cyclopentyl-2-phenylpropionic acid methyl ester as a light yellow oil: 1H NMR (400 MHz, CDCl3) δ 1.1 (m, 2H), 1.3 (m, 1H), 1.50 (m, 2H), 1.6 (m, 2H), 1.7 (m, 2H), 2.1(dt, J=13.4, 7.7 Hz, 1H), 3.60 (m, 1H), 3.64 (s, 3H), 7.3 (m, 5H); LC/MS 233 (M+1).

reactant | DIEA | 17 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | ethyl phenylacetate | 113 mmol, 17.0 g | C1(=CC=CC=C1)CC(=O)OCC | C10H12O2
reactant | cyclopentyl triflate | O(S(=O)(=O)C(F)(F)F)C1CCCC1 | C6H9F3O3S
reactant | hexane MTBE | CCCCCC.COC(C)(C)C
solvent | THF DMPU | 50 mL | C1CCOC1.CN1CCCN(C1=O)C
solvent | THF DMPU | 250 mL | C1CCOC1.CN1CCCN(C1=O)C
product | 3-cyclopentyl-2-phenylpropionic acid methyl ester | COC(C(CC1CCCC1)C1=CC=CC=C1)=O | C15H20O2
